US08378104B2
Step D: tert-butyl 4-(4-{7-amino-2-[3,5-bis(trifluoromethyl)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate
A solution of 2-(3,5-bis-trifluoromethyl-phenyl)-4-bromo-furo[2,3-c]pyridin-7-ylamine (0.449 g, 1.06 mmol) and tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (0.419 g, 1.11 mmol) in 1,4-dioxane (60 mL) and water (12 mL) was stirred for 10 min and degassed with nitrogen for 15 min. To this stirred mixture was added Pd(PPh3)2Cl2 (100 mg, 0.14 mmol) and the solution was degassed with nitrogen for an additional 5 min. Na2CO3 (168 mg, 1.59 mmol) was added and resulting mixture was stirred at 95° C. for 4 h. The reaction mixture was cooled to RT and the solvent was removed on a rotary evaporator to give the crude compound, which was purified by flash chromatography (2% MeOH:DCM) to afford 229 mg (36%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.45 (s, 9H), 2.10 (m, 2H), 2.22 (m, 2H), 2.97 (t, J=13.2 Hz, 2H), 4.35 (m, 3H), 5.59 (br, 2H), 7.34 (s, 1H), 7.71 (s, 1H), 7.81 (s, 1H), 7.92 (d, J=5.1 Hz, 2H), 8.32 (s, 2H). MS (ESI): 596 [M+H]+.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-4-bromo-furo[2,3-c]pyridin-7-ylamine | 1.06 mmol, 0.449 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=2C(=C(N=CC2Br)N)O1)(F)F | C15H7BrF6N2O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 1.11 mmol, 0.419 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | Na2CO3 | 1.59 mmol, 168 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 12 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-(4-{7-amino-2-[3,5-bis(trifluoromethyl)phenyl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate | 229 mg, 36% | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C28H27F6N5O3
